US09102591B2
2-Chloro-N-(3-cyclopropyl-2-(5-methylpyrazin-2-yl)propyl)benzamide
From 2-chlorobenzoic acid and 3-cyclopropyl-2-(5-methylpyrazin-2-yl)propylamine. LCMS (MH+): m/z=330.0, tR (minutes, Method E)=0.61

reactant | 2-chlorobenzoic acid | ClC1=C(C(=O)O)C=CC=C1 | C7H5ClO2
reactant | 3-cyclopropyl-2-(5-methylpyrazin-2-yl)propylamine | C1(CC1)CC(CN)C1=NC=C(N=C1)C | C11H17N3
product | 2-Chloro-N-(3-cyclopropyl-2-(5-methylpyrazin-2-yl)propyl)benzamide | ClC1=C(C(=O)NCC(CC2CC2)C2=NC=C(N=C2)C)C=CC=C1 | C18H20ClN3O
